US07459577B2
A 500 ml-capacity, four-necked flask fitted with a stirrer, a thermometer and a Dimroth was charged with 37.7 g (0.2 moles) of triisopropylmethoxysilane. To the flask was then added 150 g of 35% hydrochloric acid, and the resulting mixture was stirred at 20° C. for 10 hours to effect the reaction. The resulting reaction solution was separated into the aqueous layer and the organic layer. The organic layer was distilled to afford 38 g of triisopropylchlorosilane as a fraction boiling at 78° C.-80° C./10 mm Hg (yield; 99%).

reactant | triisopropylmethoxysilane | 0.2 moles, 37.7 g | C(C)(C)[Si](OC)(C(C)C)C(C)C | C10H24OSi
reactant | hydrochloric acid | 150 g | Cl | ClH
product | triisopropylchlorosilane | 38 g, yield; 99% | C(C)(C)[Si](Cl)(C(C)C)C(C)C | C9H21ClSi
